US05571843
2-(4,4-diphenylsemicarbazono)-indan-1,3-dione
ninhydrin, 4,4-diphenyl semicarbazide hydrochloride

reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | 4,4-diphenyl semicarbazide hydrochloride | Cl.C1(=CC=CC=C1)N(C(NN)=O)C1=CC=CC=C1
product | 2-(4,4-diphenylsemicarbazono)-indan-1,3-dione | C1(=CC=CC=C1)N(C(NN=C1C(C2=CC=CC=C2C1=O)=O)=O)C1=CC=CC=C1 | C22H15N3O3
